US04686227
Zinc powder (10.2 g) was added portionwise to a mixture of 7-chloro-2-methyl-3-nitrosoimidazo[2,1-a]isoquinoline (7.7 g) and acetic acid (100 ml) in water (77 ml) over a period of 7 hours and then the mixture was filtered by suction. The filtrate was evaporated in vacuo and the residue was extracted with chloroform after an addition of aqueous sodium bicarbonte to it. The extract was washed with water and evaporated in vacuo. The residual solid was washed with ethyl acetate and dried in a desiccator to give 3-amino-7-chloro-2-methylimidazo[2,1-a]isoquinoline (5.85 g).

reactant | 7-chloro-2-methyl-3-nitrosoimidazo[2,1-a]isoquinoline | 7.7 g | ClC1=C2C=CN3C(C2=CC=C1)=NC(=C3N=O)C | C12H8ClN3O
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 77 ml | O | H2O
catalyst | Zinc | 10.2 g | [Zn] | Zn
product | 3-amino-7-chloro-2-methylimidazo[2,1-a]isoquinoline | 5.85 g | NC1=C(N=C2N1C=CC1=C(C=CC=C21)Cl)C | C12H10ClN3
